US04230850
4-(2'-Morpholinoethoxy)-7-hydroxy-3-phenyl-coumarin.
Following the method of Example 30, 30.5 g. (0.12 mol) of 3-phenyl-4,7-dihydroxy-coumarin are treated with 19.5 g. (0.13 mol) of 2-morpholino-1-chloroethane. 34 g. of an oil are obtained, which cannot be crystallised. Yield 77.6% (theoretical yield 44.7 g.).

reactant | 3-phenyl-4,7-dihydroxy-coumarin | 0.12 mol | C1(=CC=CC=C1)C=1C(OC2=CC(=CC=C2C1O)O)=O | C15H10O4
reactant | 2-morpholino-1-chloroethane | 0.13 mol | O1CCN(CC1)CCCl | C6H12ClNO
product | 4-(2'-Morpholinoethoxy)-7-hydroxy-3-phenyl-coumarin | Yield 77.6% | O1CCN(CC1)CCOC1=C(C(OC2=CC(=CC=C12)O)=O)C1=CC=CC=C1 | C21H21NO5
